US07622508B2
a. Preparation of benzyl-(3-hydroxypropyl)-carbamic acid tert-butyl ester
To a mixture of 3-benzylamino-1-propanol HCl salt (2.0 g, 9.9 mmol) in DCM (49.0 mL) at 0° C. was added DIPEA (1.72 mL, 9.9 mmol) followed by a solution of di-tert-butyl-dicarbonate (1.94 g, 8.91 mmol) in DCM (20.0 mL). After being stirred for 3 h at 0° C., the reaction mixture was washed sequentially with 1N HCl (2×10.0 mL), saturated sodium bicarbonate (10.0 mL) and brine (10.0 mL), dried over sodium sulfate, filtered, and concentrated to give a yellowish oil (2.22 g). 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.20-7.39(m, 5H), 4.40(s, 2H), 3.55(brs, 2H), 3.38(brs, 2H), 1.61(brs, 2H), 1.44(s, 9H).

reactant | 3-benzylamino-1-propanol HCl salt | 9.9 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)NCCCO
reactant | DIPEA | 9.9 mmol, 1.72 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl-dicarbonate | 8.91 mmol, 1.94 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 49.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | benzyl-(3-hydroxypropyl)-carbamic acid tert-butyl ester | 2.22 g | C(C)(C)(C)OC(N(CCCO)CC1=CC=CC=C1)=O | C15H23NO3
